US07671033B2
Synthesis of Methyl 4-dodecyloxybenzoate
To a thoroughly degassed suspension of K2CO3 (127 g, 921 mmol) in DMF (600 mL) was added methyl-4-hydroxybenzoate (70 g, 461 mmol) and the mixture heated to 70° C. after which was added bromododecane (126 g, 507 mmol) and the reaction allowed to stir at 70° C. under argon for 3 hours, after which TLC (CH2Cl2) showed completion. Reaction was cooled to room temperature and precipitated into cold water. The precipitate was collected by suction filtration and purified by re-crystallization from acetone to give the title compound (140 g, 95%).

reactant | K2CO3 | 921 mmol, 127 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl-4-hydroxybenzoate | 461 mmol, 70 g | COC(C1=CC=C(C=C1)O)=O | C8H8O3
reactant | bromododecane | 507 mmol, 126 g | BrCCCCCCCCCCCC | C12H25Br
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | DMF | 600 mL | CN(C)C=O | C3H7NO
product | Methyl 4-dodecyloxybenzoate | 140 g, 95% | C(CCCCCCCCCCC)OC1=CC=C(C(=O)OC)C=C1 | C20H32O3
